US05021566
A solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (20 mg) in anhydrous pyridine (200 μl) and Ac2O (100 μl) is kept at 0° C. for 8 hrs. The mixture is evaporated in vacuo and the residue dissolved in EtOAc. This solution is washed with pH 2 phosphate buffer, 5% NaHCO3, and brine, dried with MgSO4, filtered, and evaporated i.v. to provide benzyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 20 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | Ac2O | 100 μl | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
product | benzyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | C(C)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C16H15NO5
